US06861424B2
To a solution of 2,6-dichloro-3-aminotoluene (20.5 g, 0.11 mol) in methanol (300 mL) was added dimethyl acetylenedicarboxylate (15 mL, 0.12 mol) and the reaction mixture was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure to a yellow solid. Diphenyl ether (350 mL) was heated to 230-240° C., and the yellow solid was added to it. The temperature was maintained at 230-240° C. for 20 minutes and the reaction mixture was cooled slowly to ambient temperature and diluted with petroleum ether (1 L). The solid was filtered and washed with hot ethyl acetate to afford a brown solid, 2-(methoxycarbonyl)-4-oxo-6,8-dichloro-7-methylquinoline (28.5 g, 85%); NMR (CDCl3) 2.62 (s, 3), 4.04 (s, 3), 7.02 (s, 1), 8.24 (s, 1) ppm.

reactant | 2,6-dichloro-3-aminotoluene | 0.11 mol, 20.5 g | ClC1=C(C(=CC=C1N)Cl)C | C7H7Cl2N
reactant | dimethyl acetylenedicarboxylate | 0.12 mol, 15 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | 300 mL | CO | CH4O
product | 2-(methoxycarbonyl)-4-oxo-6,8-dichloro-7-methylquinoline | 28.5 g, 85% | COC(=O)C1=NC2=C(C(=C(C=C2C(C1)=O)Cl)C)Cl | C12H9Cl2NO3
